US07704995B2
A solution of 3-fluorobiphenyl-4-carbaldehyde (0.030 g, 0.15 mmol), 3-amino-6-[3-(aminomethyl)phenyl]-N-methylpyrazine-2-carboxamide (0.038 g, 0.15 mmol), glacial AcOH (0.010 mmol, 0.15 mmol) and NaBH(OAc)3 (0.047 g, 0.22 mmol) in THF (0.6 mL) was stirred at r.t. for 12 h. Saturated NaHCO3 (aq) was added (25 mL) and the aqueous layer was extracted with EtOAc (2×25 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. The crude mixture was purified via HPLC (reverse-phase, CH3CN/H2O with 0.1% TFA). Upon removal of CH3CN/H2O, the product was taken up in MeOH and treated with Bio-Rad AG 1-X8 resin (hydroxide form) until pH 8. The product was filtered and concentrated in vacuo, to provide 13.4 mg (20% yield) of 3-amino-6-[3-({[(3-fluorobiphenyl4-yl)methyl]amino}methyl)phenyl]-N-methylpyrazine-2-carboxamide: 1H NMR (400 MHz, d6-DMSO): 8.84 (s, 1H), 8.79 (d, 1H), 8.09 (bs, 1H), 8.05 (m, 1H), 7.70 (m, 2H), 7.61 (t, 1H), 7.36-7.53 (m, 8H), 3.80 (d, 4H), 2.86 (d, 3H); MS (EI) for C26H24N5OF: 442 (MH+).

reactant | 3-fluorobiphenyl-4-carbaldehyde | 0.15 mmol, 0.030 g | FC=1C=C(C=CC1C=O)C1=CC=CC=C1 | C13H9FO
reactant | 3-amino-6-[3-(aminomethyl)phenyl]-N-methylpyrazine-2-carboxamide | 0.15 mmol, 0.038 g | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CN)C(=O)NC | C13H15N5O
reactant | AcOH | 0.010 mmol | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.22 mmol, 0.047 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
product | 3-amino-6-[3-({[(3-fluorobiphenyl4-yl)methyl]amino}methyl)phenyl]-N-methylpyrazine-2-carboxamide | 13.4 mg, 20% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CNCC1=C(C=C(C=C1)C1=CC=CC=C1)F)C(=O)NC | C26H24FN5O
